US05589502
To a solution of 1.82 g of methyl (2R,3S)--3--cyclopropyl--3-azido-2-hydroxypropionate in 60 ml of ethyl acetate are added 600 mg of 10% palladium-carbon and 2.57 g of t-butoxycarboxylic anhydride. The mixture is stirred under the atmospheric pressure of hydrogen at room temperature for one hour. The inorganic materials are removed by filtration, and the filtrate is condensed. The residue is purified by silica gel column chromatography (solvent; hexane:ethyl acetate=2:l) to give 2.78 g of methyl (2R,3S)--3-cyclopropyl-3-tert-butoxycarbonylamino- 2-hydroxypropionate.

reactant | methyl (2R,3S)--3--cyclopropyl--3-azido-2-hydroxypropionate | 1.82 g | C1(CC1)[C@@H]([C@H](C(=O)OC)O)N=[N+]=[N-] | C7H11N3O3
reactant | t-butoxycarboxylic anhydride | 2.57 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 600 mg | [C].[Pd]
product | methyl (2R,3S)--3-cyclopropyl-3-tert-butoxycarbonylamino- 2-hydroxypropionate | 2.78 g, Yield: 100% | C1(CC1)[C@@H]([C@H](C(=O)OC)O)NC(=O)OC(C)(C)C | C12H21NO5
